US04192949
33 parts of eugenol, 50 parts of dimethyl carbonate and 2 parts of tri-n-butylphosphine are kept for 15 hours at 190° C. Working up takes place as described in Example 24. 31 parts (88% of theory, based on converted eugenol) of eugenol methyl ether of boiling point 69°-70° C./0.13 mbar are obtained. The conversion is virtually quantitative.

reactant | eugenol | C=1(C(O)=CC=C(CC=C)C1)OC | C10H12O2
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | tri-n-butylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | eugenol methyl ether | 88% | COC=1C(=CC(=CC1)CC=C)OC | C11H14O2
